US04661635
A solution of 30.1 g of 4-(3-methoxyphenyl)-3-buten-2-one in 200 ml of MeOH was hydrogenated over 200 mg of 10% palladium on carbon for two hours. The catalyst was filtered and the solvent evaporated in vacuo to give 30.2 g of yellow oily 4-(3-methoxyphenyl)-2-butanone.

reactant | 4-(3-methoxyphenyl)-3-buten-2-one | 30.1 g | COC=1C=C(C=CC1)C=CC(C)=O | C11H12O2
solvent | MeOH | 200 ml | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 4-(3-methoxyphenyl)-2-butanone | 30.2 g | COC=1C=C(C=CC1)CCC(C)=O | C11H14O2
